US06150351
To a mixture of benzhydryl 7β-(2-phenylacetamido)-3-(5-carbamoylmethyl-4-methylthiazol-2-yl)thio-3-cephem-4-carboxylate (0.80 g), anisole (0.80 ml) and dichloromethane (2.40 ml) was added trifluoroacetic acid (1.60 ml) at 15° C. After stirring at room temperature for 1 hour, the solution was poured into diisopropyl ether. The resulting precipitate was collected by filtration, added to a mixture of tetrahydrofuran and water, and adjusted to pH 7.5 with an aqueous sodium bicarbonate. The separated aqueous solution was washed with ethyl acetate and adjusted to pH 3.0 with 1N-hydrochloric acid. The resulting crystal was collected by filtration and washed with water to give 7β-(2-phenylacetamido)-3-(5-carbamoylmethyl-4-methylthiazol-2-yl)thio-3-cephem-4-carboxylic acid (445 mg).

reactant | benzhydryl 7β-(2-phenylacetamido)-3-(5-carbamoylmethyl-4-methylthiazol-2-yl)thio-3-cephem-4-carboxylate | 0.80 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=C(N2)C)CC(N)=O)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H30N4O4S3
reactant | anisole | 0.80 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1.60 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 2.40 ml | ClCCl | CH2Cl2
product | 7β-(2-phenylacetamido)-3-(5-carbamoylmethyl-4-methylthiazol-2-yl)thio-3-cephem-4-carboxylic acid | 445 mg | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=2SC(=C(N2)C)CC(N)=O)C(=S)O)C1=O | C21H20N4O4S3
